* Z:\mnt\design.r\spice\examples\1986.asc
V1 IN 0 2.7
V4 N002 0 1.6
C1 N001 N003 .047µ
C2 OUT 0 2.2µ
Rload OUT 0 500
XU1 OUT 0 N002 N003 N001 IN LTC1986
.tran 1m startup
.lib LTC1986.sub
.backanno
.end
